US07521461B2
c) 2-({4-[3-(3,4-Dihydroisoquinolin-2(1H)-yl)-3-oxopropyl]phenoxy}methyl)benzoic acid
Lithium hydroxide (14.4 mg, 0.6 mmol) dissolved in water (1 ml) was added into 70377 methyl 2-({4-[3-(3,4-dihydroisoquinolin-2(1H)-yl)-3-oxopropyl]phenoxy}methyl)benzoate (129 mg, 0.3 mmol) in THF (2 ml). The mixture was put in a microwave oven (Smith Synthesizer) and irradiated at 150° C. for 7 minutes and then evaporated to remove THF. The residue was acidified with 1% hydrochloric acid, pH˜5, and extracted with ethyl acetate (×2). The extracts were combined and dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using DCM, MeOH/DCM (1:99) as eluant gave 111 mg the desired product yield 89%.

reactant | Lithium hydroxide | 0.6 mmol, 14.4 mg | [OH-].[Li+]
reactant | methyl 2-({4-[3-(3,4-dihydroisoquinolin-2(1H)-yl)-3-oxopropyl]phenoxy}methyl)benzoate | 0.3 mmol, 129 mg | C1N(CCC2=CC=CC=C12)C(CCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O | C27H27NO4
solvent | water | 1 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-({4-[3-(3,4-Dihydroisoquinolin-2(1H)-yl)-3-oxopropyl]phenoxy}methyl)benzoic acid | 111 mg, yield 89% | C1N(CCC2=CC=CC=C12)C(CCC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)=O | C26H25NO4
